US07977340B2
Step 8. 1-(5-Benzyloxy-7-bromo-benzothiazol-2-yl)-3-ethyl-urea
To a solution of 5-benzyloxy-7-bromo-benzothiazol-2-ylamine (1.35 g, 4.02 mmol) in dioxane (50.0 mL) was added ethyl isocyanate (1.90 mL, 24.22 mmol) and the resulting reaction mixture was heated to 80° C. for 15 h. The solvent was then evaporated and the residue was stirred in water at 85° C. for 5-6 h. The solution was then filtered and the solid thus obtained was washed with hot water and hexane to get the desired product (1.50 g, 92%) as an off-white solid. M.P. 294.2° C.

reactant | 5-benzyloxy-7-bromo-benzothiazol-2-ylamine | 4.02 mmol, 1.35 g | C(C1=CC=CC=C1)OC=1C=C(C2=C(N=C(S2)N)C1)Br | C14H11BrN2OS
reactant | ethyl isocyanate | 24.22 mmol, 1.90 mL | C(C)N=C=O | C3H5NO
solvent | dioxane | 50.0 mL | O1CCOCC1 | C4H8O2
product | 1-(5-Benzyloxy-7-bromo-benzothiazol-2-yl)-3-ethyl-urea | 1.50 g, 92% | C(C1=CC=CC=C1)OC=1C=C(C2=C(N=C(S2)NC(=O)NCC)C1)Br | C17H16BrN3O2S
